US05866586
5-Amino-3-chloro-4-(2-hydroxyethyl)-2-methylthiopyridine (D8)
3-Chloro-4-(2-hydroxyethyl)-2-methylthio-5-nitropyridine (0.430 g, 1.73 mmol) was dissolved in a mixture of glacial acetic acid (30 ml) and water (15 ml), and was treated with iron powder (3.78 g, 0.068 mol) with stirring. After 0.5 h, the mixture was filtered through kieselguhr and the resultant yellow solution was evaporated under reduced pressure. The residue was partitioned between sodium bicarbonate solution and ethyl acetate. The biphasic suspension was filtered through kieselguhr, and the organic layer was dried (Na2SO4) and evaporated under reduced pressure to give the title compound as a yellow solid, which was dried in vacuo (0.275 g, 73%).

reactant | 3-Chloro-4-(2-hydroxyethyl)-2-methylthio-5-nitropyridine | 1.73 mmol, 0.430 g | ClC=1C(=NC=C(C1CCO)[N+](=O)[O-])SC | C8H9ClN2O3S
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | 15 ml | O | H2O
catalyst | iron | 0.068 mol, 3.78 g | [Fe] | Fe
product | 5-Amino-3-chloro-4-(2-hydroxyethyl)-2-methylthiopyridine | NC=1C(=C(C(=NC1)SC)Cl)CCO | C8H11ClN2OS
